US08114878B2
2.6.2 (S)-5-dibenzylamino-1-methyl-piperidin-2-one
500 mg (S)-5-dibenzylamino-piperidin-2-one are suspended in 15 ml of tetrahydrofuran. While cooling with the ice bath 175 mg potassium-tert-butoxide are added. The reaction mixture is then stirred for 30 minutes at ambient temperature. While cooling with the ice bath 95 μl methyliodide are added. The reaction mixture is then stirred for 48 hours at ambient temperature and then combined with a saturated NaCl solution and ethyl acetate. The organic phase is dried and evaporated to dryness. 450 mg of the product are obtained as an oil. Analytical HPLC-MS (method D): RT=1.07 min.

reactant | (S)-5-dibenzylamino-piperidin-2-one | 500 mg | C(C1=CC=CC=C1)N([C@H]1CCC(NC1)=O)CC1=CC=CC=C1 | C19H22N2O
reactant | potassium-tert-butoxide | 175 mg | CC(C)([O-])C.[K+]
reactant | methyliodide | 95 μl | CI | CH3I
reactant | NaCl | [Na+].[Cl-]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-5-dibenzylamino-1-methyl-piperidin-2-one | 450 mg | C(C1=CC=CC=C1)N([C@H]1CCC(N(C1)C)=O)CC1=CC=CC=C1 | C20H24N2O
